US05856314
A mixture of [(5-(3-hydroxypropyl)-2-pyridinyl)aminomethylene]-bis(phosphonic acid] tetraethyl ester (10 mmol), carbon tetrabromide (11 mmol) and triphenyl phosphine (11 mmol) in dichloromethane (100 ml) is stirred at room temperature for 5 h. Water is added and the product is extracted with dichloromethane. The combined organic extracts are dried and concentrated. The residue is purified by flash column chromatography to give [(5-(3-bromopropyl)-2-pyridinyl)aminomethylene]bis[phosphonic acid] tetraethyl ester.

reactant | [(5-(3-hydroxypropyl)-2-pyridinyl)aminomethylene]-bis(phosphonic acid] tetraethyl ester | 10 mmol | C(C)OP(OCC)(=O)C(P(OCC)(OCC)=O)NC1=NC=C(C=C1)CCCO | C17H32N2O7P2
reactant | carbon tetrabromide | 11 mmol | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyl phosphine | 11 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | [(5-(3-bromopropyl)-2-pyridinyl)aminomethylene]bis[phosphonic acid] tetraethyl ester | C(C)OP(OCC)(=O)C(P(OCC)(OCC)=O)NC1=NC=C(C=C1)CCCBr | C17H31BrN2O6P2
